US06538152B1
To a solution of 2-benzyloxy-5-(2-methoxymethoxyethyl)benzamide (721 mg) in methanol (10 ml) was added concentrated hydrochloric acid (0.7 ml), and the mixture was heated under reflux for 1 hour with stirring. Water was added to the reaction mixture, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate. After the solvent was removed under reduced pressure, diethyl ether was added to the residue, and the resulting insoluble material was collected by filtration to give 2-benzyloxy-5-(2-hydroxyethyl)benzamide (519 mg).

reactant | 2-benzyloxy-5-(2-methoxymethoxyethyl)benzamide | 721 mg | C(C1=CC=CC=C1)OC1=C(C(=O)N)C=C(C=C1)CCOCOC | C18H21NO4
reactant | hydrochloric acid | 0.7 ml | Cl | ClH
reactant | Water | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 2-benzyloxy-5-(2-hydroxyethyl)benzamide | 519 mg | C(C1=CC=CC=C1)OC1=C(C(=O)N)C=C(C=C1)CCO | C16H17NO3
